** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/RADAR_TOP.sch
**.subckt RADAR_TOP ANT_RXP ANT_RXN DOUT_P DOUT_N VTUNE ANT_TXP ANT_TXN VCTRL CLK_ADC VCC_33 VDD_12 GND
*.iopin ANT_RXP
*.iopin ANT_RXN
*.iopin DOUT_P
*.iopin DOUT_N
*.iopin VTUNE
*.iopin ANT_TXP
*.iopin ANT_TXN
*.iopin VCTRL
*.iopin CLK_ADC
*.iopin VCC_33
*.iopin VDD_12
*.iopin GND
x_lna VCC_33 ANT_RXP ANT_RXN GND sub! net1 net2 LNA_77G
x_mixer VCC_33 net1 net2 net11 net12 GND sub! net3 net4 MIXER_77G
x_ifa VCC_33 net3 net4 GND sub! net5 net6 IFA_77G
x_vga VCC_33 net5 net6 VCTRL GND sub! net7 net8 VGA_77G
x_adc VDD_12 net7 net8 CLK_ADC GND sub! net9 net10 ADC_SAR_12B
x_digif VCC_33 net9 net10 GND sub! DOUT_P DOUT_N DIGIF_CML
x_vco VCC_33 VTUNE GND sub! net11 net12 VCO_77G
x_txpa VCC_33 net11 net12 VREF GND sub! ANT_TXP ANT_TXN TXPA_77G
x_ilfd VCC_33 net11 GND sub! ILFD_OP ILFD_ON ILFD_77G
x_bias VDD_12 GND sub! VREF IBIAS_OUT BIAS_BGR
**.ends

* expanding   symbol:  LNA_77G.sym # of pins=7
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/LNA_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/LNA_77G.sch
.subckt LNA_77G 2V4 INP INN GND sub! OUTP OUTN
*.iopin 2V4
*.iopin GND
*.iopin OUTN
*.iopin OUTP
*.iopin INP
*.iopin INN
XQ33 net8 net7 net4 sub! npn13G2l Nx=4 El=2.5
XQ34 net5 net1 net4 sub! npn13G2l Nx=4 El=2.5
XQ37 BIAS6 BIAS6 net2 sub! npn13G2l Nx=1 El=2.5
XQ35 net6 B35&36 net8 sub! npn13G2l Nx=4 El=2.5
XQ36 net3 B35&36 net5 sub! npn13G2l Nx=4 El=2.5
ytransline TL37 net7 BIAS6 ytransline_TL37 len=58u lumps=50
.model ytransline_TL37 transline r=22.16k l=445.9n C=61.5p
ytransline TL38 net1 BIAS6 ytransline_TL38 len=58u lumps=50
.model ytransline_TL38 transline r=22.16k l=445.9n C=61.5p
ytransline TL35 net7 INP ytransline_TL35 len=97u lumps=50
.model ytransline_TL35 transline r=22.16k l=445.9n C=61.5p
ytransline TL36 net1 INN ytransline_TL36 len=97u lumps=50
.model ytransline_TL36 transline r=22.16k l=445.9n C=61.5p
ytransline TL39 2V4 net6 ytransline_TL39 len=151u lumps=50
.model ytransline_TL39 transline r=22.16k l=445.9n C=61.5p
ytransline TL40 2V4 net3 ytransline_TL40 len=151u lumps=50
.model ytransline_TL40 transline r=22.16k l=445.9n C=61.5p
XR32 2V4 BIAS6 sub! rppd w=3e-6 l=18.23e-6 m=2 b=0
**** begin user architecture code


**** end user architecture code
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ


**** end user architecture code
XC53 INP GND cap_cmim w=6e-6 l=6e-6
XC54 INN GND cap_cmim w=6e-6 l=6e-6
XC55 OUTN net6 cap_cmim w=4e-6 l=4e-6
XC56 OUTP net3 cap_cmim w=4e-6 l=4e-6
XR33 net2 GND sub! rppd w=2.5e-6 l=10.53e-6 m=14 b=0
XR30 2V4 B35&36 sub! rppd w=3e-6 l=18.23e-6 m=2 b=0
XR31 B35&36 GND sub! rppd w=3e-6 l=18.23e-6 m=1 b=0
XC58 2V4 BIAS6 cap_cmim w=100e-6 l=20e-6
XC57 2V4 B35&36 cap_cmim w=100e-6 l=15e-6
XC59 2V4 BIAS6 cap_cmim w=100e-6 l=20e-6
XC60 2V4 GND cap_cmim w=100e-6 l=15e-6
XC61 2V4 GND cap_cmim w=100e-6 l=15e-6
XR29 net4 GND sub! rsil w=7e-6 l=38.8e-6 m=4 b=0
.ends


* expanding   symbol:  MIXER_77G.sym # of pins=9
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/MIXER_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/MIXER_77G.sch
.subckt MIXER_77G VCC RF_P RF_N LO_P LO_N GND sub! IF_P IF_N
*.iopin 2V4
*.iopin LOP
*.iopin LON
*.iopin RFP
*.iopin RFN
*.iopin GND
*.iopin IFP
*.iopin IFN
XQ22 IFP BLOP ELOL sub! npn13G2l Nx=4 El=2.5
XQ23 IFN BLON ELOL sub! npn13G2l Nx=4 El=2.5
XQ24 IFP BLON ELOR sub! npn13G2l Nx=4 El=2.5
XQ25 IFN BLOP ELOR sub! npn13G2l Nx=4 El=2.5
XQ20 ELOL BRFP GND sub! npn13G2l Nx=4 El=2.5
XQ21 ELOR BRFN GND sub! npn13G2l Nx=4 El=2.5
XQ27 RFBIAS RFBIAS GND sub! npn13G2l Nx=1 El=2.5
XQ26 LOBIAS LOBIAS RFBIAS sub! npn13G2l Nx=1 El=2.5
ytransline TL23 BLON LOBIAS ytransline_TL23 len=49u lumps=50
.model ytransline_TL23 transline r=22.16k l=445.9n C=61.5p
ytransline TL21 BLOP LOBIAS ytransline_TL21 len=49u lumps=50
.model ytransline_TL21 transline r=22.16k l=445.9n C=61.5p
ytransline TL22 BLOP LOP ytransline_TL22 len=66u lumps=50
.model ytransline_TL22 transline r=22.16k l=445.9n C=61.5p
ytransline TL24 BLON LON ytransline_TL24 len=66u lumps=50
.model ytransline_TL24 transline r=22.16k l=445.9n C=61.5p
ytransline TL25 BRFP RFBIAS ytransline_TL25 len=125u lumps=50
.model ytransline_TL25 transline r=22.16k l=445.9n C=61.5p
ytransline TL27 BRFN RFBIAS ytransline_TL27 len=125u lumps=50
.model ytransline_TL27 transline r=22.16k l=445.9n C=61.5p
ytransline TL26 BRFP RFP ytransline_TL26 len=125u lumps=50
.model ytransline_TL26 transline r=22.16k l=445.9n C=61.5p
ytransline TL28 BRFN RFN ytransline_TL28 len=125u lumps=50
.model ytransline_TL28 transline r=22.16k l=445.9n C=61.5p
**** begin user architecture code


**** end user architecture code
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ


**** end user architecture code
XR21 2V4 IFP sub! rppd w=3e-6 l=18.23e-6 m=2 b=0
XR22 2V4 IFN sub! rppd w=3e-6 l=18.23e-6 m=2 b=0
XC42 RFBIAS GND cap_cmim w=30e-6 l=30e-6
XC37 LOP GND cap_cmim w=5e-6 l=5e-6
XC38 LON GND cap_cmim w=5e-6 l=5e-6
XC39 RFP GND cap_cmim w=4e-6 l=4e-6
XC40 RFN GND cap_cmim w=4e-6 l=4e-6
XR23 2V4 LOBIAS sub! rppd w=3e-6 l=27.48e-6 m=1 b=0
XC41 2V4 LOBIAS cap_cmim w=30e-6 l=30e-6
XC43 2V4 GND cap_cmim w=30e-6 l=30e-6
.ends


* expanding   symbol:  IFA_77G.sym # of pins=7
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/IFA_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/IFA_77G.sch
.subckt IFA_77G VCC INP INN GND sub! OUTP OUTN
*.iopin INP
*.iopin INN
*.iopin OUTP
*.iopin OUTN
*.iopin VCC
*.iopin GND
*.iopin sub!
XQ1 net3 INP net1 sub! npn13G2l Nx=2 El=2.5
XQ2 net4 INN net1 sub! npn13G2l Nx=2 El=2.5
XQ3 OUTP net3 net2 sub! npn13G2l Nx=2 El=2.5
XQ4 OUTN net4 net2 sub! npn13G2l Nx=2 El=2.5
RL1 VCC net3 500
RL2 VCC net4 500
RL3 VCC OUTP 500
RL4 VCC OUTN 500
ITAIL1 net1 GND DC 2m
ITAIL2 net2 GND DC 2m
.ends


* expanding   symbol:  VGA_77G.sym # of pins=8
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/VGA_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/VGA_77G.sch
.subckt VGA_77G VCC INP INN VCTRL GND sub! OUTP OUTN
*.iopin INP
*.iopin INN
*.iopin OUTP
*.iopin OUTN
*.iopin VCTRL
*.iopin VCC
*.iopin GND
*.iopin sub!
XQ1 OUTP INP net1 sub! npn13G2l Nx=2 El=2.5
XQ2 OUTN INN net1 sub! npn13G2l Nx=2 El=2.5
XQtail net1 VCTRL net2 sub! npn13G2l Nx=4 El=2.5
RL1 VCC OUTP 500
RL2 VCC OUTN 500
RE net2 GND 10
.ends


* expanding   symbol:  ADC_SAR_12B.sym # of pins=8
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/ADC_SAR_12B.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/ADC_SAR_12B.sch
.subckt ADC_SAR_12B VDD AINP AINN CLK VSS sub! DOUTP DOUTN
*.iopin ainp
*.iopin ainn
*.iopin clk
*.iopin doutp
*.iopin doutn
*.iopin vdd
*.iopin vss
XM1 net2 ainp net1 vss sg13_lv_nmos w=8u l=200n ng=4 m=4
XM2 net3 ainn net1 vss sg13_lv_nmos w=8u l=200n ng=4 m=4
XM9 net1 clk vss vss sg13_lv_nmos w=8u l=200n ng=4 m=2
XM5 doutp doutn net2 vss sg13_lv_nmos w=4u l=200n ng=2 m=2
XM6 doutn doutp net3 vss sg13_lv_nmos w=4u l=200n ng=2 m=2
XM3 doutp doutn vdd vdd sg13_lv_pmos w=4u l=200n ng=2 m=2
XM4 doutn doutp vdd vdd sg13_lv_pmos w=4u l=200n ng=2 m=2
XM7 doutp clk vdd vdd sg13_lv_pmos w=2u l=200n ng=1 m=2
XM8 doutn clk vdd vdd sg13_lv_pmos w=2u l=200n ng=1 m=2
.ends


* expanding   symbol:  DIGIF_CML.sym # of pins=7
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/DIGIF_CML.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/DIGIF_CML.sch
.subckt DIGIF_CML VCC DIN_P DIN_N GND sub! DOUT_P DOUT_N
*.iopin DIN_P
*.iopin DIN_N
*.iopin DOUT_P
*.iopin DOUT_N
*.iopin VCC
*.iopin GND
*.iopin sub!
XQ1 DOUT_P DIN_P tail sub! npn13G2l Nx=2 El=2.5
XQ2 DOUT_N DIN_N tail sub! npn13G2l Nx=2 El=2.5
RT1 VCC DOUT_P 50
RT2 VCC DOUT_N 50
ITAIL tail GND DC 4m
.ends


* expanding   symbol:  VCO_77G.sym # of pins=6
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/VCO_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/VCO_77G.sch
.subckt VCO_77G VCC VTUNE GND sub! OUTP OUTN
*.iopin VCC
*.iopin GND
*.iopin OUTP
*.iopin OUTN
*.iopin VTUNE
*.iopin sub|
XQ1 OUTP OUTN net1 sub| npn13G2l Nx=1 El=2.5
XQ2 OUTN OUTP net1 sub| npn13G2l Nx=1 El=2.5
L1 VCC OUTP 27p
L2 VCC OUTN 27p
CVAR1 OUTP OUTN 15f
CVAR2 OUTP OUTN 12f
ITAIL net1 GND DC 5m
.ends


* expanding   symbol:  TXPA_77G.sym # of pins=8
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/TXPA_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/TXPA_77G.sch
.subckt TXPA_77G VCC INP INN VBIAS_CB GND sub! OUTP OUTN
*.iopin VCC
*.iopin GND
*.iopin INP
*.iopin INN
*.iopin OUTP
*.iopin OUTN
*.iopin VBIAS_CB
*.iopin sub|
XQ1_CE net5 net9 net7 sub| npn13G2l Nx=8 El=2.5
XQ2_CE net6 net10 net8 sub| npn13G2l Nx=8 El=2.5
XQ3_CB net1 VBIAS_CB net5 sub| npn13G2l Nx=8 El=2.5
XQ4_CB net2 VBIAS_CB net6 sub| npn13G2l Nx=8 El=2.5
ytransline TL_INP net9 INP ytransline_TL_INP len=97u lumps=50
.model ytransline_TL_INP transline r=22.16k l=445.9n C=61.5p
ytransline TL_INN INN net10 ytransline_TL_INN len=97u lumps=50
.model ytransline_TL_INN transline r=22.16k l=445.9n C=61.5p
ytransline TL_OUTP net1 net3 ytransline_TL_OUTP len=210u lumps=50
.model ytransline_TL_OUTP transline r=22.16k l=445.9n C=61.5p
ytransline TL_OUTN net2 net4 ytransline_TL_OUTN len=210u lumps=50
.model ytransline_TL_OUTN transline r=22.16k l=445.9n C=61.5p
ytransline TL_DEG_P net7 GND ytransline_TL_DEG_P len=58u lumps=50
.model ytransline_TL_DEG_P transline r=22.16k l=445.9n C=61.5p
ytransline TL_DEG_N net8 GND ytransline_TL_DEG_N len=58u lumps=50
.model ytransline_TL_DEG_N transline r=22.16k l=445.9n C=61.5p
XRB_CB VBIAS_CB GND sub! rppd w=3e-6 l=18.23e-6 m=1 b=0
CDC_P VCC net3 500f
CDC_N VCC net4 500f
.ends


* expanding   symbol:  ILFD_77G.sym # of pins=6
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/ILFD_77G.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/ILFD_77G.sch
.subckt ILFD_77G VCC INJ_P GND sub! OUTP OUTN
*.iopin VCC
*.iopin GND
*.iopin OUTP
*.iopin OUTN
*.iopin INJ_P
*.iopin sub|
XQ1_XC OUTP OUTN net1 sub| npn13G2l Nx=2 El=2.5
XQ2_XC OUTN OUTP net1 sub| npn13G2l Nx=2 El=2.5
XQ_INJ net1 net3 net2 sub| npn13G2l Nx=2 El=2.5
ytransline TL_STUB_P VCC OUTP ytransline_TL_STUB_P len=280u lumps=50
.model ytransline_TL_STUB_P transline r=22.16k l=445.9n C=61.5p
ytransline TL_STUB_N VCC OUTN ytransline_TL_STUB_N len=280u lumps=50
.model ytransline_TL_STUB_N transline r=22.16k l=445.9n C=61.5p
ITAIL net2 GND DC 3m
C_INJ INJ_P net3 100f
.ends


* expanding   symbol:  BIAS_BGR.sym # of pins=5
** sym_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/BIAS_BGR.sym
** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/BIAS_BGR.sch
.subckt BIAS_BGR VDD VSS sub! VREF IBIAS_OUT
*.iopin VREF
*.iopin VCC
*.iopin GND
*.iopin sub!
XQ1 net2 net2 net1 sub! npn13G2l Nx=1 El=2.5
XQ2 net3 net3 GND sub! npn13G2l Nx=8 El=2.5
R1 net1 GND 5.4k
R2 VREF GND 18k
Rfb net2 net3 50
Rout net3 VREF 100
I1 VCC net2 DC 200u
I2 VCC net3 DC 200u
.ends

.GLOBAL sub!
.end
